US08119661B2
Step C. The preparation of 2-[(1R,2S)-2-aminocyclohexyl]acetonitrile
A solution tert-butyl N-[(1S,2R)-2-(cyanomethyl)cyclohexyl]carbamate (2 g) in MeOH (40 mL) and 4 M HCl in dioxane (20 mL) was stirred at room temperature for 2 hours and concentrated in vacuo to provide the title compound as a yellow oil, which was used for the subsequent step without further purification.

reactant | tert-butyl N-[(1S,2R)-2-(cyanomethyl)cyclohexyl]carbamate | 2 g | C(#N)C[C@@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C13H22N2O2
solvent | MeOH | 40 mL | CO | CH4O
solvent | HCl | 4 M | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 2-[(1R,2S)-2-aminocyclohexyl]acetonitrile | N[C@@H]1[C@H](CCCC1)CC#N | C8H14N2
